US04297350
A mixture of 17β-methoxy-2-hydroxymethylen-5α-androstan-3-one (U.S. Pat. No. 3,980,638, Example 3, 0.5 gm.) in acetic anhydride (3.0 ml.) and pyridine (3 ml.) is allowed to stand at 20°-25° for 24 hours. The reaction mixture is then poured into water and the product separates. The product is collected and dissolved in benzene and purified by column chromatography on Florisil. The appropriate fractions (TLC) are pooled and concentrated to give a residue. The residue is crystallized from methanol to give 17β-methoxy-2-acetoxymethylen-5α-androstan-3-one.

reactant | 17β-methoxy-2-hydroxymethylen-5α-androstan-3-one | CO[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC(C(C[C@]3(C)[C@H]1CC2)=CO)=O | C21H32O3
reactant | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
reactant | water | O | H2O
solvent | acetic anhydride | 3.0 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 17β-methoxy-2-acetoxymethylen-5α-androstan-3-one | CO[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC(C(C[C@]3(C)[C@H]1CC2)=COC(C)=O)=O | C23H34O4
